US04897392
10-Bromo-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine
A solution of 2.41 g N-bromosuccinimide in 50 ml dimethylformamide was added dropwise to 3.53 g 1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine in 108 ml dimethylformamide. After the addition was complete, the reaction mixture was stirred for one hour at room temperature. Upon addition of water, a solid precipitated, which was collected, washed with water and dried. Recrystallization from water/methanol yielded 2.55 g solid;

reactant | N-bromosuccinimide | 2.41 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine | 3.53 g | CN1N=CN2C1=CN1C(C3=C2C=CC=C3)=CC3=CC=CC=C31 | C18H14N4
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 108 ml | CN(C=O)C | C3H7NO
product | 10-Bromo-1-methyl-4H-indolo[1,2-d][1,2,4]triazolo[4,3-a][1,4]benzodiazepine | 2.55 g | BrC1=C2C=C3N(C=C4N(C5=C3C=CC=C5)C=NN4C)C2=CC=C1 | C18H13BrN4
